US04804665
8-Benzyloxycarbonyl-2-benzyloxycarbonyloxy-2,8-diazaspiro[4,5]decane-1,3-dione
To a solution of 2-hydroxy-2,8-diazaspiro-[4,5]decane-1,3-dione.hydrochloride (3.3 g) were added sodium hydrogencarbonate (2.43 g) and benzyloxycarbonyl chloride (3.2 ml). The mixture was stirred for 3 hours at room temperature, which was extracted with ethyl acetate (100 ml). The organic layer was dried over anydrous magnesium sulfate, then the solvent was evaporated off. The residual solid was recrystallized from diethyl ether-n-hexane to obtain 6.0 g of a colorless solid, m.p. 114° C.

reactant | 2-hydroxy-2,8-diazaspiro-[4,5]decane-1,3-dione.hydrochloride | 3.3 g | Cl.ON1C(C2(CC1=O)CCNCC2)=O
reactant | sodium hydrogencarbonate | 2.43 g | C(O)([O-])=O.[Na+]
reactant | benzyloxycarbonyl chloride | 3.2 ml | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
product | 8-Benzyloxycarbonyl-2-benzyloxycarbonyloxy-2,8-diazaspiro[4,5]decane-1,3-dione | 6.0 g | C(C1=CC=CC=C1)OC(=O)N1CCC2(CC(N(C2=O)OC(=O)OCC2=CC=CC=C2)=O)CC1 | C24H24N2O7
